US07348449B2
Synthesis of 4-[5-(4-tert-Butylphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthylselanylethynyl]benzoic acid
In a manner similar to that of Example 1g, by reacting 0.28 g (0.5 mmol) of methyl 4-[5-(4-tert-butylphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthylselanylethynyl]benzoate with 0.28 g (6.6 mmol) of lithium hydroxide monohydrate, a cream-colored powder is obtained (0.08 g; yield=30%; m.p. =231° C.).

reactant | methyl 4-[5-(4-tert-butylphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthylselanylethynyl]benzoate | 0.5 mmol, 0.28 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1 | C32H32O2Se
reactant | lithium hydroxide monohydrate | 6.6 mmol, 0.28 g | O.[OH-].[Li+]
product | 4-[5-(4-tert-Butylphenyl)-8,8-dimethyl-7,8-dihydro-2-naphthylselanylethynyl]benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)O)C=C1 | C31H30O2Se
